US07208513B2
A. 3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenyl amine
To a solution of 2-{3-bromo-5-[1 (triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazolyl}perhydro-2H-pyran (1.0 g, 1.69 mmol) in ethylene glycol dimethyl ether, (20 mL), 3-amino phenyl boronic acid was added as a solid (0.393 g, 2.53 mmol), followed by [1,1′-bis(diphenylphosphino)-ferrocene] complex with dichloromethane (1:1) (0.196 g, 0.169 mmol), and potassium phosphate (1.79 g, 8.45 mmol). The reaction mixture was heated to reflux temperature of the solvent for 12 h. The crude reaction mixture was partitioned between ethyl acetate and water. The organic extracts were dried over Na2SO4. The desired product was isolated as a beige solid after column chromatography purification (SiO2, 25–50% ethyl acetate in hexanes) (0.801 g, 79% yield): ES-MS (m/z) 603 [M+1]+.

reactant | 2-{3-bromo-5-[1 (triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazolyl}perhydro-2H-pyran | 1.69 mmol, 1.0 g | BrC1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C33H28BrN5O
reactant | dichloromethane | 0.169 mmol, 0.196 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 8.45 mmol, 1.79 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | 3-amino phenyl boronic acid | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenyl amine | 79% yield | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
